US07153878B2
C-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-methylamine
A mixture of 4-azidomethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole (1.70 g) and PtO2 (0.106 g) in ethyl acetate (50 mL) at room temperature under 60 psi of hydrogen for 5 hrs, the reaction mixture is filtered through celite and filtrate is concentrated giving the title compound (1.3 g, 84.2% yield).

reactant | 4-azidomethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | 1.70 g | N(=[N+]=[N-])CC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 0.106 g | O=[Pt]=O
product | C-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-methylamine | 1.3 g, 84.2% yield | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CN | C12H11F3N2O
